US07851473B2
(4) 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperazine dihydrochloride
To a solution of tert-butyl 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate (3.29 g, 9.05 mmol) in ethyl acetate (100 ml) was added a 4N solution (100 ml) of hydrogen chloride in ethyl acetate, and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off under reduced pressure to give 2.32 g (76.3%) of the desired product as a solid.

reactant | tert-butyl 4-[4-(4-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 9.05 mmol, 3.29 g | FC1=CC=C(C=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22FN3O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(4-Fluorophenyl)-1,3-thiazol-2-yl]piperazine dihydrochloride | 2.32 g, 76.3% | Cl.Cl.FC1=CC=C(C=C1)C=1N=C(SC1)N1CCNCC1 | InChI=1S/C13H14FN3S.2ClH/c14-11-3-1-10(2-4-11)12-9-18-13(16-12)17-7-5-15-6-8-17;;/h1-4,9,15H,5-8H2;2*1H
